US07662402B2
In 20 ml of acetone, 2.1 g of 2-(2,2,3,3,3-pentafluoropropyl)malononitrile and 4.5 g of 2,2,3,3,3-pentafluoropropyl trifluoromethanesulfonate were dissolved, 2.2 g of potassium carbonate was added and the mixture was stirred at room temperature for 10 hours. Thereafter, dilute hydrochloric acid was added to the reaction mixture and the mixture was extracted with t-butyl methyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.05 g of 2,2-bis(2,2,3,3,3-pentafluoropropyl)malononitrile (hereinafter, referred to as the present compound (93)).

reactant | 2-(2,2,3,3,3-pentafluoropropyl)malononitrile | 2.1 g | FC(CC(C#N)C#N)(C(F)(F)F)F | C6H3F5N2
reactant | 2,2,3,3,3-pentafluoropropyl trifluoromethanesulfonate | 4.5 g | FC(S(=O)(=O)OCC(C(F)(F)F)(F)F)(F)F | C4H2F8O3S
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2,2-bis(2,2,3,3,3-pentafluoropropyl)malononitrile | 0.05 g | FC(CC(C#N)(C#N)CC(C(F)(F)F)(F)F)(C(F)(F)F)F | C9H4F10N2
